US08492378B2
1-[4-(difluoromethoxy)phenyl]-6-[5-(methylsulfonyl)-1,3,4-oxadiazol-2-yl]-1H-benzimidazole
To a mixture of 1-[4-(difluoromethoxy)phenyl]-6-[5-(methylthio)-1,3,4-oxadiazol-2-yl]-1H-benzimidazole (3.22 g, 8.60 mmol), dichloromethane (24 mL) and N,N-dimethylacetamide (24 mL) was added m-chloroperbenzoic acid (5.15 g, 21.5 mmol), and the resulting mixture was stirred at 50° C. overnight. A saturated aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was stirred for 30 min and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1-0/1) and recrystallized from hexane/ethyl acetate to give the title compound (2.23 g, yield 64%) as colorless crystals.

reactant | 1-[4-(difluoromethoxy)phenyl]-6-[5-(methylthio)-1,3,4-oxadiazol-2-yl]-1H-benzimidazole | 8.60 mmol, 3.22 g | FC(OC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C=2OC(=NN2)SC)F | C17H12F2N4O2S
reactant | dichloromethane | 24 mL | ClCCl | CH2Cl2
reactant | m-chloroperbenzoic acid | 21.5 mmol, 5.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylacetamide | 24 mL | CN(C(C)=O)C | C4H9NO
product | 1-[4-(difluoromethoxy)phenyl]-6-[5-(methylsulfonyl)-1,3,4-oxadiazol-2-yl]-1H-benzimidazole | 2.23 g, yield 64% | FC(OC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C=2OC(=NN2)S(=O)(=O)C)F | C17H12F2N4O4S
